US06215016B1
In 150 mL of acetic acid, were suspended 11.7 g (121 mmol) of furfural and 16.25 g (122 mmol) of rhodanine. To the suspension, was added 31.0 g (378 mmol) of sodium acetate, and the mixture was stirred at 85° C. for 1 hour and 40 min. After confirming the appearance of a bright orange precipitate, the reaction suspension was cooled to room temperature and poured into 200 mL of water. After thorough stirring, the resulting precipitate was filtered under reduced pressure, and the residue was washed with 300 mL of water, 20 mL of 99.5% ethanol, and then 10 mL of diethyl ether. The residue was dried to give 20.0 g (94.8 mmol) of furfural rhodanine with a crude yield of 78%. The furfural rhodanine was used for the subsequent reaction without being further purified.

reactant | furfural | 121 mmol, 11.7 g | C(C1=CC=CO1)=O | C5H4O2
reactant | rhodanine | 122 mmol, 16.25 g | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | sodium acetate | 378 mmol, 31.0 g | C(C)(=O)[O-].[Na+]
reactant | water | 200 mL | O | H2O
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
product | furfural rhodanine | 94.8 mmol, 20.0 g | S1C(=S)NC(=O)C1.C(C1=CC=CO1)=O | InChI=1S/C5H4O2.C3H3NOS2/c6-4-5-2-1-3-7-5;5-2-1-7-3(6)4-2/h1-4H;1H2,(H,4,5,6)
